US07550480B2
1b) Tert-butyl 3-[4,6-Dibromo-2-(2-chlorophenyl)-3-pyridyl]propionate
n-Butyllithium in hexanes (1.6 Molar (hereinafter “M”), 3.75 millilitre (hereinafter “ml”), 6.0 millimole (hereinafter “mmol”)) was added to di-isopropylamine (0.84 ml, 6.0 mmol) in dry THF (15 ml) at −10° under nitrogen. After 5 minutes (hereinafter “min”). the solution was cooled to −70° and tert-butyl acetate (0.5 ml, 3.71 mmol) added dropwise. After stirring at −70° C. for 10 min. under nitrogen, 4,6-Dibromo-3-(bromomethyl)-2-(2-chlorophenyl)pyridine (0.405 grams (hereinafter “g”), 0.92 mmol) in dry THF (15 ml) was added, and the mixture stirred at −70° for 2 h. Glacial acetic acid (2 ml) was added, the temperature allowed to rise to 22° and the solution evaporated in vacuo. The residue was purified by column chromatography over silica (50 g) eluting with cyclohexane-ethyl acetate (9:1)-(5:1) to give the product as an oil (0.21 g).

reactant | n-Butyllithium | C(CCC)[Li]
reactant | di-isopropylamine | 6.0 mmol, 0.84 ml | C(C)(C)NC(C)C | C6H15N
reactant | tert-butyl acetate | 3.71 mmol, 0.5 ml | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | 4,6-Dibromo-3-(bromomethyl)-2-(2-chlorophenyl)pyridine | 0.92 mmol, 0.405 grams | BrC1=C(C(=NC(=C1)Br)C1=C(C=CC=C1)Cl)CBr | C12H7Br3ClN
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | Tert-butyl 3-[4,6-Dibromo-2-(2-chlorophenyl)-3-pyridyl]propionate | 0.21 g | BrC1=C(C(=NC(=C1)Br)C1=C(C=CC=C1)Cl)CCC(=O)OC(C)(C)C | C18H18Br2ClNO2
